US07375099B2
c) N-(3,5-Difluoro-benzyl)-2-methyl-malonamic acid
To a solution of 4.0 g (14.75 mmol) N-(3,5-difluoro-benzyl)-2-methyl-malonamic acid ethyl ester in 300 ml of ethanol, 15 ml of water and 1.41 g (59 mmol) of lithium hydroxide were added and the mixture was refluxed for 5 hours. After concentration in vacuo water (50 ml) was added and the mixture was extracted with dichloromethane (three times 30 ml). The aqueous phase was acidified with 8 N hydrochloric acid and extracted with dichloromethane (four times 30 ml).

reactant | N-(3,5-difluoro-benzyl)-2-methyl-malonamic acid ethyl ester | 14.75 mmol, 4.0 g | C(C)OC(C(C(=O)NCC1=CC(=CC(=C1)F)F)C)=O | C13H15F2NO3
reactant | lithium hydroxide | 59 mmol, 1.41 g | [OH-].[Li+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | N-(3,5-Difluoro-benzyl)-2-methyl-malonamic acid | FC=1C=C(CNC(C(C(=O)O)C)=O)C=C(C1)F | C11H11F2NO3
